* D:\2024-25\Education\ELE713\Project\[03] Simulation\Forward-Converter.asc
R2 N004 N009 {RL}
C1 N004 N009 {Cf} Rser=2m
V2 N005 N008 PULSE(0 1 0 1n 1n {D*1/fs} {1/fs})
D2 0 P001 D1
D1 N002 N003 D1
D3 N009 N003 D1
L4 N003 N004 {Lf} Rser=50m
L告nd3 P001 N001 {L3} Rser=20m
L告nd2 N002 N009 {L2} Rser=20m
L告nd1 N001 N006 {L1} Rser=20m
sw 0 N006 N005 N008 NMOS
B1 N001 0 V={Vi}
R1 N013 N015 36
C2 N012 N015 {Caux} Rser=2m
D4 N010 N011 D1
L告nd4 N010 N015 {L4} Rser=20m
Q1 N012 N014 N013 0 2N2222
R3 N012 N014 1.5k
D6 N015 N014 MMBZ16VALY
R4 N015 N009 1Meg
R5 N009 0 1Meg
D5 N015 N011 D1
L1 N011 N012 {Laux} Rser=50m
.model D D
.lib C:\Users\ozgur\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\ozgur\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS SW(Ron=25m Roff=1Meg Vt=.5 Vh=-.4)
.model D1 D(Ron=20m Roff=100G Vfwd=0.1)
.tran 0 0.011 0.01 0.01u
K1 ind1 ind2 ind3 ind4 1
.param L1 185.6u
.param L2  26.1u
.param L3 185.6u
.param L4 104.4u
.param fs  200k
.param Cf 15u
.param RL 0.625
.param Lf 16u
.param Laux 20u
.param Caux 20u
.param Vi 60
.param D 0.22
.backanno
.end
